US07777047B2
N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-methyl-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide
To a solution of N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide (0.15 g) and N-acetylpiperazine (90 mg) in N,N-dimethylformamide (10 ml) was added potassium carbonate (120 mg) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1-7:3), and the obtained pale-yellow oil was crystallized from ethyl acetate-hexane to give the title compound (95 mg, yield 52%) as colorless crystals. melting point 171-172° C.

reactant | N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}-N-methylthiophene-2-sulfonamide | 0.15 g | ClCC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C | C18H16ClN3O2S3
reactant | N-acetylpiperazine | 90 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | potassium carbonate | 120 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-methyl-1H-indol-7-yl)-N-methylthiophene-2-sulfonamide | 95 mg, yield 52% | C(C)(=O)N1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)C | C24H27N5O3S3
